US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (1R,2R)-2-hydroxy-cyclohexylamine and DIEA to give 2-((1R,2R)-2-hydroxy-cyclohexylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 354 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (1R,2R)-2-hydroxy-cyclohexylamine | O[C@H]1[C@@H](CCCC1)N | C6H13NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-((1R,2R)-2-hydroxy-cyclohexylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | O[C@H]1[C@@H](CCCC1)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C19H19N3O2S
